US03947445
8-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride (2.5 g, 0.0126 mole) was stirred vigorously in a 2-phase system of 20 ml aqueous 10% sodium hydroxide and 50 ml chloroform for 1/2 hour at room temperature. Then at 0°C, 2.56 g (0.0189 mole) diethylcarbamyl chloride was added and the reaction was stirred 18 hours at room temperature. Hot water (50 ml) was added. The solution was extracted twice with chloroform and the extract dried with sodium sulfate. After evaporation, a solution of the oily free base in diethyl ether was treated with ethanolic hydrogen chloride to yield 2.92 g (89% yield) 3-(N,N-diethylcarbamyl)-8 -methyl-3,8-diazabicyclo [3.2.1]octane monohydrochloride, a white solid melting at 202°-205°C.

reactant | 8-Methyl-3,8-diazabicyclo[3.2.1]octane dihydrochloride | 0.0126 mole, 2.5 g | Cl.Cl.CN1C2CNCC1CC2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | diethylcarbamyl chloride | 0.0189 mole, 2.56 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | water | 50 ml | O | H2O
product | 3-(N,N-diethylcarbamyl)-8 -methyl-3,8-diazabicyclo [3.2.1]octane monohydrochloride | 2.92 g, 89% yield | Cl.C(C)N(C(=O)N1CC2CCC(C1)N2C)CC | InChI=1S/C12H23N3O.ClH/c1-4-14(5-2)12(16)15-8-10-6-7-11(9-15)13(10)3;/h10-11H,4-9H2,1-3H3;1H
